US04638067
1-Ethyl-6-fluoro-1,4-dihydro-7-(7-methyl-2,7-diazaspiro[4.4]non-2-yl)-4-oxo-1,8-naphthyridine-3-carboxylic acid
A stirred suspension of 4.40 g (20.7 mmol) of 2-methyl-2,7-diazaspiro[4.4]nonane dihydrochloride in 200 ml acetonitrile was treated with 9.42 g (62 mmol) 1,8-diazabicyclo[5.4.0]undec-7-ene and 5.42 g (20 mmol) 1-ethyl-6-fluoro-7-chloro-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid was added. After stirring 23 hours at room temperature the precipitated product was filtered, washed with acetonitrile and ether, and recrystallized from ethanol to afford 3.99 g of the title compound, mp 252°-254° C. (dec).

reactant | 2-methyl-2,7-diazaspiro[4.4]nonane dihydrochloride | 20.7 mmol, 4.40 g | Cl.Cl.CN1CC2(CC1)CNCC2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 62 mmol, 9.42 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 1-ethyl-6-fluoro-7-chloro-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid | 20 mmol, 5.42 g | C(C)N1C=C(C(C2=CC(=C(N=C12)Cl)F)=O)C(=O)O | C11H8ClFN2O3
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 1-Ethyl-6-fluoro-1,4-dihydro-7-(7-methyl-2,7-diazaspiro[4.4]non-2-yl)-4-oxo-1,8-naphthyridine-3-carboxylic acid | 3.99 g | C(C)N1C=C(C(C2=CC(=C(N=C12)N1CC2(CC1)CN(CC2)C)F)=O)C(=O)O | C19H23FN4O3
